US04130409
Chlorobenzene (0.4 mol) and aluminium chloride (0.5 mol) in carbon disulphide (30 ml) were stirred at 50°-60°. Fumaryl chloride (0.2 mol) was added dropwise at a brisk rate over 30 minutes and refluxing was continued for a further 15 minutes. The residue was poured into crushed ice (1 kg) and concentrated hydrochloric acid (15.0 ml). The semi-solid was filtered off, washed with ether and ethanol, and recrystallised from ethyl acetate/ethanol to give pale yellow needles of di-(p-chlorobenzoyl) ethylene m.p. 175°-176°. Analysis:

reactant | Chlorobenzene | 0.4 mol | ClC1=CC=CC=C1 | C6H5Cl
reactant | aluminium chloride | 0.5 mol | [Cl-].[Al+3].[Cl-].[Cl-]
reactant | Fumaryl chloride | 0.2 mol | C(\C=C\C(=O)Cl)(=O)Cl | C4H2Cl2O2
reactant | hydrochloric acid | 15.0 ml | Cl | ClH
solvent | carbon disulphide | 30 ml | C(=S)=S | CS2
product | di-(p-chlorobenzoyl) ethylene | ClC1=CC=C(C(=O)C=CC(C2=CC=C(C=C2)Cl)=O)C=C1 | C16H10Cl2O2
